US04213980
10 ml of chloroform are added to 8 g of 3-aminochromone in 200 ml of toluene and the mixture is warmed to 40° C. After cooling to 20° C., 10 ml of N,N-diisopropylethylamine are added with stirring, followed by the addition of 4.8 ml of bromoacetyl chloride in 20 ml of toluene at 10° C. in the course of 5 minutes. When the addition is complete, the reaction mixture is stirred for 1 hour at room temperature. The crystalline precipitate which has formed is collected by suction, washed with water and recrystallised from ethanol/petroleum ether, yielding 11.8 g of 2-bromo-N-(4-oxo-1-benzopyran-3-yl)-acetamide with a melting point of 198° C.

reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 3-aminochromone | 8 g | NC1=COC2=CC=CC=C2C1=O | C9H7NO2
reactant | N,N-diisopropylethylamine | 10 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | bromoacetyl chloride | 4.8 ml | BrCC(=O)Cl | C2H2BrClO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-bromo-N-(4-oxo-1-benzopyran-3-yl)-acetamide | 11.8 g | BrCC(=O)NC1=COC2=C(C1=O)C=CC=C2 | C11H8BrNO3
